US20010041700A1
(c) N-[3-Cyano-1-(1H-indol-2-ylmethyl)-pyrrolidin-3-yl]-2-cyclohexylmethyl-4-morpholin-4-yl-4-oxo-butyramide
A suspension of N-{3-cyano-1-[1-(toluene-4-sulfonyl)-1H-indole-3-ylmethyl]-pyrrolidin-3-yl}-2-cyclohexylmethyl-4-morpholin-4-yl-4-oxo-butyramide (0.052 g, 0.079 mmol) and Mg (powder) (0.038 g, 1.6 mmol) in MeOH (5 mL) was sonicated at room temperature reaction was monitored by MS. When completed, the reaction mixture was poured into a saturated solution of NH4Cl and extracted with CH2Cl2. The combined organic extracts were dried over Na2SO4 and concentrated to provide the title compound in 76% yield. The compound was recrystallized from Et2O/hexanes. 1H NMR (CDCl3) 8.1 (1H, s), 7.71-7.69 (1H, m), 7.39-7.37 (1H, m), 7.25-7.15 (3H, m), 6.9 (1H, s), 4.0-3.8 (2H, m), 3.7-3.3 (11H, m), 3.2-3.1 (1H, m), 3.0-2.5 (3H, m), 2.3-2.15 (2H, m), 1.8-1.4 (5H, m), 1.35-1.03 (5H, m), 0.95-0.78 (3H,m). MS, m/z 506=M+1.

reactant | N-{3-cyano-1-[1-(toluene-4-sulfonyl)-1H-indole-3-ylmethyl]-pyrrolidin-3-yl}-2-cyclohexylmethyl-4-morpholin-4-yl-4-oxo-butyramide | 0.079 mmol, 0.052 g | C(#N)C1(CN(CC1)CC1=CN(C2=CC=CC=C12)S(=O)(=O)C1=CC=C(C=C1)C)NC(C(CC(=O)N1CCOCC1)CC1CCCCC1)=O | C36H45N5O5S
reactant | NH4Cl | [NH4+].[Cl-]
solvent | MeOH | 5 mL | CO | CH4O
product | N-[3-Cyano-1-(1H-indol-2-ylmethyl)-pyrrolidin-3-yl]-2-cyclohexylmethyl-4-morpholin-4-yl-4-oxo-butyramide | 76% yield | C(#N)C1(CN(CC1)CC=1NC2=CC=CC=C2C1)NC(C(CC(=O)N1CCOCC1)CC1CCCCC1)=O | C29H39N5O3
